US07544697B2
1-Ethoxy-1,2-dioxooct-3-en-4-olate, sodium salt (332.8 g, 1.50 mol) was treated with tert-butylhydrazine hydrochloride (186.6 g, 1.50 mol) according to the procedure described in Part B of Examples 37-39 to yield ethyl 5-butyl-1-tert-butyl-1H-pyrazole-3-carboxylate as a brown oil.

reactant | 1-Ethoxy-1,2-dioxooct-3-en-4-olate | C(C)OC(C(C=C(CCCC)[O-])=O)=O
reactant | sodium | 1.50 mol, 332.8 g | [Na] | Na
reactant | tert-butylhydrazine hydrochloride | 1.50 mol, 186.6 g | Cl.C(C)(C)(C)NN
product | ethyl 5-butyl-1-tert-butyl-1H-pyrazole-3-carboxylate | C(CCC)C1=CC(=NN1C(C)(C)C)C(=O)OCC | C14H24N2O2
